US07687503B2
2.2. 2-(methylamino)-2-oxoethyl 4-(4-bromophenyl)-1-piperazinecarboxylate
1.17 g (4.85 mmol) of 1-(4-bromophenyl)piperazine are added to a solution of 1.47 g (4 mmol) of 2-(methyl-amino)-2-oxoethyl 4-nitrophenyl carbonate, obtained in step 2.1., in 18 ml of 1,2-dichloroethane. This reaction mixture is heated at 65° C. for 2.25 hours. The mixture is allowed to cool to room temperature and it is then concentrated under reduced pressure. The oily yellow residue is taken up in dichloromethane and washed successively with sodium hydroxide (1N), water, aqueous 5% citric acid solution, water and then brine. This organic phase is dried over sodium sulfate and is concentrated under reduced pressure. After washing with diisopropyl ether, 1.3 g of product are obtained in the form of a white solid.

reactant | 1-(4-bromophenyl)piperazine | 4.85 mmol, 1.17 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | 2-(methyl-amino)-2-oxoethyl 4-nitrophenyl carbonate | 4 mmol, 1.47 g | C(OCC(=O)NC)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H10N2O6
solvent | 1,2-dichloroethane | 18 ml | ClCCCl | C2H4Cl2
product | 2-(methylamino)-2-oxoethyl 4-(4-bromophenyl)-1-piperazinecarboxylate | BrC1=CC=C(C=C1)N1CCN(CC1)C(=O)OCC(=O)NC | C14H18BrN3O3
